US08669249B2
Methyl 2-(4-formyl-2-methyl-6-nitrophenoxy)propanoate (4)
Using 4-hydroxy-3-methyl-5-nitrobenzaldehyde as the phenol and methyl-2-bromopropanoate as the alkylating agent in the general procedure for alkylation of substituted-2-nitrophenols gives a tan solid: 1H NMR (DMSO-d6, 400 MHz): δ ppm 9.97 (s, 1H), 8.29 (d, J=1.5 Hz, 1H), 8.09 (d, J=1.5 Hz, 1 H), 4.82 (q, J=6.8 Hz, 1H), 3.62 (s, 3H), 2.42 (s, 3H), 1.52 (d, J=6.8 Hz, 3H). ESI-MS: m/z 268.1 (M+H)+.

reactant | 4-hydroxy-3-methyl-5-nitrobenzaldehyde | OC1=C(C=C(C=O)C=C1[N+](=O)[O-])C | C8H7NO4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl-2-bromopropanoate | COC(C(C)Br)=O | C4H7BrO2
product | Methyl 2-(4-formyl-2-methyl-6-nitrophenoxy)propanoate | C(=O)C1=CC(=C(OC(C(=O)OC)C)C(=C1)[N+](=O)[O-])C | C12H13NO6
